US09388161B2
A mixture of (S)-1-(2-methyl-5-propoxy-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinolin-1 (2H)-yl)ethanone (0.055 g, 0.147 mmol), 2-bromo-5-(methylsulfonyl)pyridine (0.037 g, 0.155 mmol), XPhos Precatalyst 2nd Generation (0.012 g, 0.015 mmol), and cesium carbonate (0.144 g, 0.442 mmol) in 1,4-dioxane (2.0 mL) and water (0.40 mL) was heated in the microwave at 100° C. for 1.5 h. The reaction mixture was filtered through Celite and concentrated to afford an orange oil. This material was purified via column chromatography on silica gel (Biotage 25 g column, gradient elution with 25-100% ethyl acetate-hexane) to afford (S)-1-(2-methyl-6-(5-(methylsulfonyl)pyridin-2-yl)-5-propoxy-3,4-dihydroquinolin-1(2H)-yl)ethanone (0.016 g, 27%) as a tan solid. 1H NMR (300 MHz, DMSO-d6) δ ppm 0.85 (t, J=7.33 Hz, 3H), 1.07 (d, J=6.45 Hz, 3H), 1.32-1.50 (m, 2H), 1.56 (dt, J=14.07, 7.04 Hz, 2H), 2.14 (s, 3H), 2.19-2.33 (m, 1H), 2.79-2.94 (m, 1H), 3.37 (s, 3H), 3.50 (td, J=6.30, 2.64 Hz, 2H), 4.51-4.75 (m, 1H), 7.33 (br d, J=8.50 Hz, 1H), 7.64 (d, J=8.50 Hz, 1H), 8.08-8.21 (m, 1H), 8.36 (dd, J=8.50, 2.35 Hz, 1H), 9.14 (d, J=2.05 Hz, 1H). MS (ESI, pos. ion) m/z 403 [M+H]+.

reactant | (S)-1-(2-methyl-5-propoxy-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinolin-1 (2H)-yl)ethanone | 0.147 mmol, 0.055 g | C[C@@H]1N(C2=CC=C(C(=C2CC1)OCCC)B1OC(C(O1)(C)C)(C)C)C(C)=O | C21H32BNO4
reactant | 2-bromo-5-(methylsulfonyl)pyridine | 0.155 mmol, 0.037 g | BrC1=NC=C(C=C1)S(=O)(=O)C | C6H6BrNO2S
reactant | cesium carbonate | 0.442 mmol, 0.144 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | chloro(2-dicyclohexylphosphino-2′,4′,6′-tri-i-propyl-1,1′-biphenyl)(2′-amino-1,1′-biphenyl-2-yl) palladium(II) | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=CC(=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C.C1=CC=C([C-]=C1)C2=CC=CC=C2N.Cl[Pd+]
solvent | 1,4-dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.40 mL | O | H2O
product | (S)-1-(2-methyl-6-(5-(methylsulfonyl)pyridin-2-yl)-5-propoxy-3,4-dihydroquinolin-1(2H)-yl)ethanone | 0.016 g, 27% | C[C@@H]1N(C2=CC=C(C(=C2CC1)OCCC)C1=NC=C(C=C1)S(=O)(=O)C)C(C)=O | C21H26N2O4S
